US07074800B1
A solution of 7-(2-(1-methylpiperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (4.2 g, 9.7 mmol) in methanol saturated with ammonia (150 ml) was stirred overnight at ambient temperature. The volatiles were removed under vacuum and the residue was triturated with ether. The solid was filtered, washed with ether and dried under vacuum to give 7-(2-(1-methylpiperidin-4-yl)ethoxy)-6-methoxy-3,4-dihydroquinazolin-4-one (3.12 g, 100%).

reactant | 7-(2-(1-methylpiperidin-4-yl)ethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 9.7 mmol, 4.2 g | CN1CCC(CC1)CCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C23H33N3O5
reactant | ammonia | 150 ml | N | H3N
solvent | methanol | CO | CH4O
product | 7-(2-(1-methylpiperidin-4-yl)ethoxy)-6-methoxy-3,4-dihydroquinazolin-4-one | 3.12 g, 100% | CN1CCC(CC1)CCOC1=C(C=C2C(NC=NC2=C1)=O)OC | C17H23N3O3
